US09024093B2
4′-(Trifluoromethanesulfonyl)flavanone (S66)
To 4′-hydroxyflavanone (240 mg, 1.00 mmol, 1.00 equiv) in CH2Cl2 (2.0 mL) at 23° C. was added triethylamine (418 μL, 3.00 mmol, 3.00 equiv), DMAP (12 mg, 0.10 mmol, 0.10 equiv) and N-phenylbis(trifluoromethanesulfonimide) (535 mg, 1.50 mmol, 1.50 equiv) and the reaction mixture was stirred for 3 hr at 23° C. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on silica gel eluting with hexanes/EtOAc 10:1 (v/v) to afford 353 mg of the title compound as a colorless solid (95% yield).

reactant | 4′-hydroxyflavanone | 1.00 mmol, 240 mg, 1.00 equiv | OC1=CC=C(C2OC3=CC=CC=C3C(C2)=O)C=C1 | C15H12O3
reactant | triethylamine | 3.00 mmol, 418 μL, 3.00 equiv | C(C)N(CC)CC | C6H15N
reactant | N-phenylbis(trifluoromethanesulfonimide) | 1.50 mmol, 535 mg, 1.50 equiv | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 2.0 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.10 mmol, 12 mg, 0.10 equiv | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4′-(Trifluoromethanesulfonyl)flavanone | 353 mg, 95% yield | FC(S(=O)(=O)C1=CC=C(C2OC3=CC=CC=C3C(C2)=O)C=C1)(F)F | C16H11F3O4S
